US08877754B2
N-Ethyl-2-{4-[2-(2-fluoro-ethoxy)-pyrimidin-5-ylethynyl]-phenyl}-propionamide
To 13 mg (0.21 mmol) 2-fluoro-ethanol in 0.5 mL 1,4-dioxane are added 34 mg (0.10 mmol) 2-[4-(2-chloro-pyrimidin-5-ylethynyl)-phenyl]-N-ethyl-propionamide (XVIII.1) in 1 mL 1,4-dioxane, followed by 12 mg (0.30 mmol) sodium hydride (60% in mineral oil). The mixture is stirred at rt for 12 h. After that time, the solvent is evaporated and the residue s purified by HPLC (preparative column: Sunfire, eluent A: water+0.1% TFA, eluent B: MeOH) to yield the desired product.

reactant | 2-fluoro-ethanol | 0.21 mmol, 13 mg | FCCO | C2H5FO
reactant | 2-[4-(2-chloro-pyrimidin-5-ylethynyl)-phenyl]-N-ethyl-propionamide | 0.10 mmol, 34 mg | ClC1=NC=C(C=N1)C#CC1=CC=C(C=C1)C(C(=O)NCC)C | C17H16ClN3O
reactant | sodium hydride | 0.30 mmol, 12 mg | [H-].[Na+]
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-Ethyl-2-{4-[2-(2-fluoro-ethoxy)-pyrimidin-5-ylethynyl]-phenyl}-propionamide | C(C)NC(C(C)C1=CC=C(C=C1)C#CC=1C=NC(=NC1)OCCF)=O | C19H20FN3O2
